US07781478B2
To a solution of 1-ethyl-6-trifluoromethylindole-3-carbonitrile (2.54 g, 10.0 mmol), prepared by the method of procedure 1A, in anhydrous THF (20.0 mL), at −78° C. is added LDA (8.3 mL, 1.5 M mono-THF in cyclohexane, 12.5 mmol) dropwise. The mixture is continued for 0.5 h after the addition, followed by the addition of hexachloroethane and the mixture is then brought to room temperature slowly and stirred for 0.5 h. The solvent is then evaporated and the residue is treated with water. The organics are extracted with dichloromethane, washed with water and brine and dried over anhydrous Na2SO4. The crude product obtained after the removal of the solvent is chromatographed (silica gel, dichloromethane/hexanes, 3/2) to provide 2-chloro-1-ethyl-6-(trifluoromethyl)-1H-indole-3-carbonitrile (1.75 g, 64%).

reactant | 1-ethyl-6-trifluoromethylindole-3-carbonitrile | 10.0 mmol, 2.54 g | C(C)N1C=C(C2=CC=C(C=C12)C(F)(F)F)C#N | C12H9F3N2
reactant | LDA | 12.5 mmol, 1.5 M, 8.3 mL | [Li+].CC(C)[N-]C(C)C
reactant | hexachloroethane | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | 20.0 mL | C1CCOC1 | C4H8O
product | 2-chloro-1-ethyl-6-(trifluoromethyl)-1H-indole-3-carbonitrile | 1.75 g, 64% | ClC=1N(C2=CC(=CC=C2C1C#N)C(F)(F)F)CC | C12H8ClF3N2
